US06130187
Preparation of 3-(4-chloro-6-fluoro-3-formyl-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 91)
2.0 g (53 mmol) of 3-(4-chloro-6-fluoro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil and 36.5 g (0.32 mol) of dichloromethyl methyl ether were dissolved in 100 ml of dichloromethane, and 200 ml (0.20 mol) of tin tetrachloride (1M dichloromethane solution) was dropwise added thereto at 0° C. After completion of the dropwise addition, stirring was carried out at room temperature for 2 hours. After completion of the reaction, the reaction solution was poured into a mixture of dilute hydrochloric acid and ice and extracted with dichloromethane. The organic layer was washed with water and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 19.5 g (yield: 90.7%) of the desired product as white crystals. Melting point: 148-150° C.

reactant | 3-(4-chloro-6-fluoro-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 53 mmol, 2.0 g | ClC1=CC(=C(C2=C1C=C(O2)C)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C15H9ClF4N2O3
reactant | dichloromethyl methyl ether | 0.32 mol, 36.5 g | COC(Cl)Cl | C2H4Cl2O
reactant | tin tetrachloride | 0.20 mol, 1M, 200 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(4-chloro-6-fluoro-3-formyl-2-methylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 19.5 g, yield: 90.7% | ClC1=CC(=C(C2=C1C(=C(O2)C)C=O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C16H9ClF4N2O4
